US07820700B2
In 5 ml of THF were dissolved 63 mg of 3-(methylthio)-1-propanol and 100 mg of methyl 2-(3-cyano-4-hydroxyphenyl)isonicotinate, and the resulting solution was heated at 0° C. for 10 minutes in the presence of 0.15 ml of tributylphosphine and 149 mg of 1,1′-(azodicarbonyl)dipiperidine. Then, the reaction solution was warmed to room temperature and stirred all day and night. After removal of the solvent, water was added and extraction with ethyl acetate was performed. The resulting organic layer is washed with brine and then dried and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform:methanol=95:5) to obtain 92 mg of methyl 2-{3-cyano-4-[3-(methylthio)propoxy]phenyl}isonicotinate. (2) Then, 92 mg of the compound was dissolved in a mixed solution of 3 ml of methanol and 3 ml of THF, and 0.32 ml of a 1M aqueous sodium hydroxide solution was added thereto, followed by heating at 60° C. for 1 hour. After being cooled, the reaction solution was diluted with diisopropyl ether and an aqueous layer was separated. The aqueous layer was neutralized with 1M hydrochloric acid and then extracted with ethyl acetate. After washing with brine, the organic layer was dried and concentrated under reduced pressure to obtain 81 mg of 2-{3-cyano-4-[3-(methylthio)propoxy]phenyl}isonicotinic acid.

reactant | 3-(methylthio)-1-propanol | 63 mg | CSCCCO | C4H10OS
reactant | methyl 2-(3-cyano-4-hydroxyphenyl)isonicotinate | 100 mg | C(#N)C=1C=C(C=CC1O)C=1C=C(C(=O)OC)C=CN1 | C14H10N2O3
reactant | tributylphosphine | 0.15 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 149 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | methyl 2-{3-cyano-4-[3-(methylthio)propoxy]phenyl}isonicotinate | 92 mg | C(#N)C=1C=C(C=CC1OCCCSC)C=1C=C(C(=O)OC)C=CN1 | C18H18N2O3S
